US07129252B2
A mixture of ethyl 2-aminobenzoate (4 g) and 4-pyridylformaldehyde (1.2 eq) and NaBH3CN (2 eq) in methanol stirred overnight. The solvent was evaporated, and EtOAc (100 ml) and H2O (100 ml) were added. The solution was extracted three times with EtOAc and washed with H2O followed by brine, dried over Na2SO4 and evaporated. The residue was purified by column chromatography to give ethyl 2-[(4-pyridylmethyl)-amino]benzoate. The above compound (400 mg) was stirred with acetyl chloride (1.2 eq) and DIEA (1.2 eq) in dichloromethane at RT for two hours. The solution was washed with H2O followed by brine, dried over Na2SO4 and evaporated to give ethyl 2-[N-(4-pyridyl-methyl)acetylamino]benzoate for next step without further purification.

reactant | ethyl 2-aminobenzoate | 4 g | NC1=C(C(=O)OCC)C=CC=C1 | C9H11NO2
reactant | 4-pyridylformaldehyde | 1.2 eq | N1=CC=C(C=C1)C=O | C6H5NO
reactant | NaBH3CN | 2 eq | [BH3-]C#N.[Na+]
solvent | methanol | CO | CH4O
product | ethyl 2-[(4-pyridylmethyl)-amino]benzoate | N1=CC=C(C=C1)CNC1=C(C(=O)OCC)C=CC=C1 | C15H16N2O2
